### PR TITLE
[Merged by Bors] - feat: port Data.Seq.Computation

### PR DESCRIPTION
**Pull request by arienmalec**
Port of data.seq.computation

Requires renaming `return` to `pure`

### CODE REVIEW

File: Mathlib/Data/Seq/Computation.lean [hunk 1]
```diff
@@ -0,0 +1,1261 @@
...
+  (bind_assoc := @bind_assoc)
+
+theorem has_map_eq_map {β} (f : α → β) (c : Computation α) : f <$> c = map f c :=
+  rfl
+#align computation.has_map_eq_map Computation.has_map_eq_map
+
+@[simp]
+theorem return'_def (a) : (return' a : Computation α) = return' a :=
+  rfl
+#align computation.return_def Computation.return'_def
```
Comment (qawbecrdtey) [inline Mathlib/Data/Seq/Computation.lean:856]: Is this theorem required? As `#lint` says, `return' a` already has type `Computation α`.

Comment (arienmalec) [reply Mathlib/Data/Seq/Computation.lean:856]: Grepping in the `mathlib` codebase, this `def` is the only mention.

Comment (kbuzzard) [reply Mathlib/Data/Seq/Computation.lean]: Looking at the Lean 3 source, that first `return'` is a `_root_.return` not a `computation.return` so this lemma is not a tautology. You can't check that the lemma isn't used just by grepping the code base because the simplifier might use it. It should be re-instated in my opinion.

Comment (digama0) [reply Mathlib/Data/Seq/Computation.lean]: This should probably be `pure` not `return'`. In lean 4 `return` is used for early return, and `pure` for the monad operation, while in lean 3 `pure` and `return` were interchangeable.

**Comment by digama0** [comment]
This should probably be `pure` not `return'`. In lean 4 `return` is used for early return, and `pure` for the monad operation, while in lean 3 `pure` and `return` were interchangeable.

**Comment by arienmalec** [comment]
> This should probably be `pure` not `return'`. In lean 4 `return` is used for early return, and `pure` for the monad operation, while in lean 3 `pure` and `return` were interchangeable.

Makes sense -- I'll hold until after we get resolution for the last issue, and then rename.

File: lake-manifest.json [hunk 2]
```diff
@@ -37,18 +37,6 @@
     "rev": "72610cec1cd686884a08704f5fa91b45262136f9",
     "name": "aesop",
     "inputRev?": "master"}},
-  {"git":
```
Comment (kbuzzard) [inline lake-manifest.json:40]: Why are these changes being made in this PR?

Comment (arienmalec) [reply lake-manifest.json:40]: They should not be -- this was in error.

**Comment by arienmalec** [comment]
`lake-manifest.json` was accidentally included in this PR. Please merge manually and prior to merging, revert `lake-manifest.json` to master (`git checkout origin/master -- lake-manifest.json` I believe.

**Comment by jcommelin** [comment]
Sorry, I made a mess out of the git history. I "fixed" it using a force push that squashes all the changes into 1 commit.

File: Mathlib/Data/Seq/Computation.lean [hunk 3]
```diff
@@ -0,0 +1,1296 @@
...
+  rfl
+#align computation.tail_empty Computation.tail_empty
+
+theorem think_empty : empty α = think (empty α) :=
+  destruct_eq_think destruct_empty
+#align computation.think_empty Computation.think_empty
+
+/-- Recursion principle for computations, compare with `List.recOn`. -/
+-- porting notes: required `noncomputable`
+noncomputable def recOn {C : Computation α → Sort v} (s : Computation α) (h1 : ∀ a, C (pure a))
```
Comment (jcommelin) [inline Mathlib/Data/Seq/Computation.lean:194]: Can we make this computable again, using the approach of `List.recOn'` or something similar?

File: Mathlib/Data/Seq/Computation.lean [hunk 4]
```diff
@@ -0,0 +1,1296 @@
...
+  · rw [IH (results_think_iff.1 h)]
+    rfl
+#align computation.eq_thinkN Computation.eq_thinkN
+
+theorem eq_thinkN' (s : Computation α) [_h : Terminates s] :
+    s = thinkN (pure (get s)) (length s) :=
+  eq_thinkN (results_of_terminates _)
+#align computation.eq_thinkN' Computation.eq_thinkN'
+
+--porting notes: required noncomputable to compile
```
Comment (jcommelin) [inline Mathlib/Data/Seq/Computation.lean:620]: Idem

File: Mathlib/Data/Seq/Computation.lean [hunk 5]
```diff
@@ -0,0 +1,1296 @@
...
+/-- Recursor based on memberhip-/
+noncomputable def memRecOn {C : Computation α → Sort v} {a s} (M : a ∈ s) (h1 : C (pure a))
+    (h2 : ∀ s, C s → C (think s)) : C s := by
+  haveI T := terminates_of_mem M
+  rw [eq_thinkN' s, get_eq_of_mem s M]
+  generalize length s = n
+  induction' n with n IH; exacts[h1, h2 _ IH]
+#align computation.mem_rec_on Computation.memRecOn
+
+--porting notes: required noncomputable to compile
```
Comment (jcommelin) [inline Mathlib/Data/Seq/Computation.lean:630]: Idem

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
